US07750040B2
To a solution of 2,6-diethylphenol (3.80 g, 25.3 mmol) in acetic acid (30 mL) hexamethylenetetraamine (5.3 g, 37.9 mmol) is added and the mixture is heated to 120° C. A first fraction of the solvent is distilled off (Dean-Stark), then the mixture is refluxed for 3 h. The mixture is cooled to rt, diluted with water (100 mL) and extracted twice with EA (2×200 mL). The organic extracts are washed with sat. aq. NaHCO3, dried and the solvent is removed in vacuo. The crude product is purified by column chromatography eluting with DCM containing 2% of methanol to give 3,5-diethyl-4-hydroxybenzaldehyde (1.8 g) as colourless solid; 1H NMR (CDCl3): δ 9.85 (s, 1H), 7.57 (s, 2H), 5.32 (s, 1H), 2.69 (q, J=7.6 Hz, 2H), 1.30 (t, J=7.6 Hz, 3H).

reactant | 2,6-diethylphenol | 25.3 mmol, 3.80 g | C(C)C1=C(C(=CC=C1)CC)O | C10H14O
reactant | acetic acid | 37.9 mmol, 30 mL, 5.3 g | C(C)(=O)O | C2H4O2
product | 3,5-diethyl-4-hydroxybenzaldehyde | 1.8 g | C(C)C=1C=C(C=O)C=C(C1O)CC | C11H14O2
